US06331640B1
A mixture of 3,5-bis[(tetrahydro-2H-pyran-2-yl)oxy]benzoic acid (5.00 g, 15.5 mmol), 1,3-dicyclohexylcarbodiimide (3.72 g, 18.1 mmol) and N-hydroxysuccinimide (2.08 g, 18.0 mmol) in tetrahydroftiran (100 mL) was stirred at room temperature for 40 h. Ether (100 mL) was added and the mixture was stirred for 20 min. The white solid was filtered off and discarded. The solvent was evaporated from the filtrate, and the residue was coated onto silica gel and chromatographed (50-75% ethyl acetate/hexanes) to give 1-[[3,5-bis[(tetrahydro-2H-pyran-2-yl)oxy]benzoyl]oxy]-2,5-pyrrolidinedione (5.84 g, 90%) as a white solid.

reactant | 3,5-bis[(tetrahydro-2H-pyran-2-yl)oxy]benzoic acid | 15.5 mmol, 5.00 g | O1C(CCCC1)OC=1C=C(C(=O)O)C=C(C1)OC1OCCCC1 | C17H22O6
reactant | 1,3-dicyclohexylcarbodiimide | 18.1 mmol, 3.72 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 18.0 mmol, 2.08 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | Ether | 100 mL | CCOCC | C4H10O
product | 1-[[3,5-bis[(tetrahydro-2H-pyran-2-yl)oxy]benzoyl]oxy]-2,5-pyrrolidinedione | 5.84 g, 90% | O1C(CCCC1)OC=1C=C(C(=O)ON2C(CCC2=O)=O)C=C(C1)OC1OCCCC1 | C21H25NO8
